US06699880B1
Preparation of 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(2-propinyl)-1,3-dihydro-2H-benzimidazol-2-one
1-[1-(1-Methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-di-hydro-2H-benzimidazol-2-one (28 mg) as synthesized by the method of Referential Example 1 was dissolved in 5 ml of dimethylformamide, and to which 2.0 mg of sodium hydride was added under cooling with ice, followed by 30 minutes' stirring. Ten(10) mg of propargyl bromide was added to the reaction liquid which was stirred for further 3 hours at room temperature. After adding saturated aqueous sodium bicarbonate solution and concentrating the reaction liquid, the resulting residue was distributed between saturated aqueous sodium bicarbonate solution and chloroform. The organic layer was dried over anhydrous sodium sulfate, concentrated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol=20/1). Thus 11.3 mg of the title compound was obtained as a colorless oil.

reactant | 1-[1-(1-Methoxycarbonylpiperidin-4-yl)piperidin-4-yl]-1,3-di-hydro-2H-benzimidazol-2-one | 28 mg | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C19H26N4O3
reactant | sodium hydride | 2.0 mg | [H-].[Na+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-(1-methoxycarbonylpiperidin-4-yl)-piperidin-4-yl]-3-(2-propinyl)-1,3-dihydro-2H-benzimidazol-2-one | 11.3 mg | COC(=O)N1CCC(CC1)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)CC#C)=O | C22H28N4O3
